US08242134B2
3-Bromomethyl-8-fluoro-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
0.15 mg (3-Bromomethyl-4-{[(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-8-fluoro-1-oxo-1H-isoquinolin-2-yl)-propyl-carbamic acid tert-butyl ester was stirred at room temperature over night in 2 mL 1,2-dichloroethane and 2 mL trifluoroacetic acid. The reaction mixture was concentrated in vacuo to give the title compound.

reactant | (3-Bromomethyl-4-{[(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-8-fluoro-1-oxo-1H-isoquinolin-2-yl)-propyl-carbamic acid tert-butyl ester | 0.15 mg | C(C)(C)(C)OC(N(CCC)N1C(C2=C(C=CC=C2C(=C1CBr)C(N[C@H](C1=CC(=CC=C1)F)C1CCC1)=O)F)=O)=O | C30H34BrF2N3O4
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Bromomethyl-8-fluoro-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C2=C(C=CC=C12)F)=O)NCCC)CBr | C25H26BrF2N3O2
